US04659708
C. N,N-diethyl-4-[6-[(6-methoxy-4-methyl-8-quinolinyl)amino]hexyl]-1-piperazinecarboxamide, dihydrochloride
To a mixture of 2.4 g (0.00673 mole) of 6-methoxy-4-methyl-N-[6-(1-piperazinyl)hexyl]-8-quinolinamine and 1.7 g (0.016 mole) of sodium carbonate in 50 ml of acetone was added a solution of 1.8 g (0.007 mole) of diethylcarbamoylchloride in 20 ml of acetone. The mixture was stirred under gentle reflux for 2 hr, allowed to cool, filtered and concentrated to dryness in vacuo. A solution of the residue in dichloromethane was washed with water, dried over anhydrous magnesium sulfate, filtered and concentrated to dryness. Chromatography of the residue over 70 g of silica with 10% methanol in ethyl acetate afforded 2 g of product, Rf=0.3. The material was triturated with 2-propanol containing excess hydrogen chloride. The resulting yellow precipitate was collected, washed with 2-propanol and then ether, dried in vacuo at 52° overnight and air-equilibrated to afford 1.8 g (50%) of the title compound, mp 226°-228° (dec).

reactant | 6-methoxy-4-methyl-N-[6-(1-piperazinyl)hexyl]-8-quinolinamine | 0.00673 mole, 2.4 g | COC=1C=C2C(=CC=NC2=C(C1)NCCCCCCN1CCNCC1)C | C21H32N4O
reactant | sodium carbonate | 0.016 mole, 1.7 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | diethylcarbamoylchloride | 0.007 mole, 1.8 g | C(C)N(C(=O)Cl)CC | C5H10ClNO
solvent | acetone | 50 ml | CC(=O)C | C3H6O
solvent | acetone | 20 ml | CC(=O)C | C3H6O
product | N,N-diethyl-4-[6-[(6-methoxy-4-methyl-8-quinolinyl)amino]hexyl]-1-piperazinecarboxamide, dihydrochloride | 2 g | Cl.Cl.C(C)N(C(=O)N1CCN(CC1)CCCCCCNC=1C=C(C=C2C(=CC=NC12)C)OC)CC | InChI=1S/C26H41N5O2.2ClH/c1-5-30(6-2)26(32)31-17-15-29(16-18-31)14-10-8-7-9-12-27-24-20-22(33-4)19-23-21(3)11-13-28-25(23)24;;/h11,13,19-20,27H,5-10,12,14-18H2,1-4H3;2*1H
